* c:\users\hp\esim-workspace\esimproject\esimproject.cir

v1  a gnd pulse(0 5 20 0 0 20 50)
v3  b gnd pulse(0 5 10 0 0 10 20)
v2  ? gnd pulse(0 5 5 0 0 5 10)
* u4  a b bin net-_u22-pad1_ net-_u11-pad1_ net-_u10-pad2_ adc_bridge_3
* u5  net-_u22-pad2_ net-_u11-pad1_ ? d_nor
* u6  net-_u22-pad1_ net-_u23-pad2_ net-_u16-pad2_ d_nor
* u7  net-_u23-pad2_ ? net-_u20-pad1_ d_nor
* u8  net-_u10-pad1_ net-_u11-pad1_ net-_u17-pad1_ d_nor
* u9  net-_u11-pad1_ net-_u10-pad1_ net-_u21-pad1_ d_nand
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ d_nand
* u11  net-_u11-pad1_ net-_u10-pad2_ net-_u11-pad3_ d_nand
* u12  ? net-_u12-pad2_ net-_u12-pad3_ d_nand
* u13  net-_u12-pad3_ net-_u13-pad2_ difference borrow dac_bridge_2
* u14  difference plot_v1
* u15  borrow plot_v1
* u2  a plot_v1
* u3  bin plot_v1
* u1  b plot_v1
r1  ? gnd 1k
r2  difference gnd 1k
* u16  ? net-_u16-pad2_ net-_u16-pad3_ d_or
* u17  net-_u17-pad1_ net-_u10-pad2_ net-_u17-pad3_ d_or
* u18  net-_u16-pad3_ net-_u18-pad2_ ? d_or
* u20  net-_u20-pad1_ net-_u17-pad3_ net-_u12-pad2_ d_or
* u19  net-_u10-pad3_ net-_u11-pad3_ net-_u19-pad3_ d_nand
* u21  net-_u21-pad1_ net-_u19-pad3_ net-_u13-pad2_ d_nand
* u23  net-_u11-pad1_ net-_u23-pad2_ d_inverter
* u22  net-_u22-pad1_ net-_u22-pad2_ d_inverter
* u24  net-_u10-pad2_ net-_u18-pad2_ d_inverter
a1 [a b bin ] [net-_u22-pad1_ net-_u11-pad1_ net-_u10-pad2_ ] u4
a2 [net-_u22-pad2_ net-_u11-pad1_ ] ? u5
a3 [net-_u22-pad1_ net-_u23-pad2_ ] net-_u16-pad2_ u6
a4 [net-_u23-pad2_ ? ] net-_u20-pad1_ u7
a5 [net-_u10-pad1_ net-_u11-pad1_ ] net-_u17-pad1_ u8
a6 [net-_u11-pad1_ net-_u10-pad1_ ] net-_u21-pad1_ u9
a7 [net-_u10-pad1_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a8 [net-_u11-pad1_ net-_u10-pad2_ ] net-_u11-pad3_ u11
a9 [? net-_u12-pad2_ ] net-_u12-pad3_ u12
a10 [net-_u12-pad3_ net-_u13-pad2_ ] [difference borrow ] u13
a11 [? net-_u16-pad2_ ] net-_u16-pad3_ u16
a12 [net-_u17-pad1_ net-_u10-pad2_ ] net-_u17-pad3_ u17
a13 [net-_u16-pad3_ net-_u18-pad2_ ] ? u18
a14 [net-_u20-pad1_ net-_u17-pad3_ ] net-_u12-pad2_ u20
a15 [net-_u10-pad3_ net-_u11-pad3_ ] net-_u19-pad3_ u19
a16 [net-_u21-pad1_ net-_u19-pad3_ ] net-_u13-pad2_ u21
a17 net-_u11-pad1_ net-_u23-pad2_ u23
a18 net-_u22-pad1_ net-_u22-pad2_ u22
a19 net-_u10-pad2_ net-_u18-pad2_ u24
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1 in_high=2 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u5 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u6 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u7 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u8 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u9 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u10 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u11 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u12 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u13 dac_bridge(out_low=0 out_high=5 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u16 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u17 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u18 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u20 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u19 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u21 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u22 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 20e-03 40e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(difference)
plot v(borrow)
plot v(a)
plot v(bin)
plot v(b)
.endc
.end
